US08236808B2
Step 1: 3-(4-Methoxy-3-sulfo-phenyl)-3-phenyl-propionic acid methyl ester
To a solution of 3-(4-methoxy-phenyl)-3-phenyl-propionic acid methyl ester (prepared according to the procedure reported in Tetrahedron (2006), 62(41), 9610-9621) (2.50 g, 9.25 mmol) in DCM (250 mL) at 0° C. is added chlorosulfonic acid (30.7 ml, 462.5 mmol). The reaction mixture is allowed to warm to RT and is stirred at this temperature for 2 h. Ice water is added to cause precipitation of the product. The solvents are decanted and the residual solid is washed with ice water. The solid is then dried under vacuum to afford the title compound that is used without further purification.

reactant | 3-(4-methoxy-phenyl)-3-phenyl-propionic acid methyl ester | COC(CC(C1=CC=CC=C1)C1=CC=C(C=C1)OC)=O | C17H18O3
reactant | chlorosulfonic acid | 462.5 mmol, 30.7 ml | ClS(=O)(=O)O | ClHO3S
solvent | DCM | 250 mL | C(Cl)Cl | CH2Cl2
product | 3-(4-Methoxy-3-sulfo-phenyl)-3-phenyl-propionic acid methyl ester | COC(CC(C1=CC=CC=C1)C1=CC(=C(C=C1)OC)S(=O)(=O)O)=O | C17H18O6S
